Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with a history of IPF on pirfenidone, GERD and 
HTN presenting with cough and fever. She has had a cough which 
is intermittently productive for 2 days. She can normally take 
off her oxygen intermittently but now is requiring oxygen all 
the time or her levels dropped into the ___. She denies any 
chest pain, nausea, vomiting. She missed a step on a curb on 
___ and did have a fall and has had some mild right hip pain. 
She has been able to ambulate with no issues. She denies any 
head strike, loss of consciousness.
 
Past Medical History:
- Idiopathic Pulmonary Fibrosis
- Hypertension
- GERD 
 
Social History:
___
Family History:
Mother: ___, died of breast CA age ___
Father: No known issues
Siblings: Elder brother died from hepatic cancer

 
Physical Exam:
ADMISSION EXAM:
================
VS: 99.6 121/62 97 18 96% 3L 
GENERAL: Elderly woman in NAD
HEENT: anicteric sclera, PERRL, cataracts, MMM, OP clear
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: NLB on 2L, scattered expiratory coarse crackles in bases 
with milder rales in upper fields
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&O, face symmetric, MAE, gait not assessed
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:
================
VS: Tmax 98.3 Tc 97.4 BP 136/74 HR 84 ___ 85/RA 
GENERAL: Elderly ___ woman in NAD
HEENT: Nasal congestion. No sinus tenderness. No icterus or 
injection. MMM, OP clear.
HEART: RRR, no murmurs  
LUNGS: NLB on 2.5L. Fine inspiratory crackles at bases. No 
egophony or dullness to percussion.
ABDOMEN: Soft, NDNT.
GU: No suprapubic tenderness.
EXTREMITIES: Warm, no clubbing, cyanosis or edema.
NEURO: Normal mental status, strength, and coordination.
SKIN: no rashes or lesions.

 
Pertinent Results:
ADMISSION LABS:
=================================
___ 04:00AM BLOOD WBC-10.5* RBC-3.33* Hgb-11.1* Hct-32.9* 
MCV-99* MCH-33.3* MCHC-33.7 RDW-13.2 RDWSD-48.2* Plt ___
___ 04:00AM BLOOD Neuts-76.9* Lymphs-12.8* Monos-6.6 
Eos-3.1 Baso-0.3 Im ___ AbsNeut-8.09*# AbsLymp-1.35 
AbsMono-0.69 AbsEos-0.33 AbsBaso-0.03
___ 04:00AM BLOOD ___ PTT-29.3 ___
___ 04:00AM BLOOD Glucose-118* UreaN-9 Creat-0.7 Na-132* 
K-3.3 Cl-97 HCO3-22 AnGap-16
___ 04:10AM BLOOD Lactate-1.7
___ 04:00AM BLOOD Osmolal-279

PERTINENT INTERVAL LABS:
=================================
PROCALCITONIN  <0.10 ng/mL
Diagnosis of lower respiratory tract infections:
   <0.10 ng/mL: Bacterial infection very unlikely
For more information on this test, go to
___

DISCHARGE LABS:
=================================
___ 08:20AM BLOOD WBC-7.5 RBC-3.44* Hgb-11.5 Hct-34.2 
MCV-99* MCH-33.4* MCHC-33.6 RDW-12.7 RDWSD-46.1 Plt ___
___ 08:20AM BLOOD Neuts-62.3 ___ Monos-9.8 Eos-0.3* 
Baso-0.4 Im ___ AbsNeut-4.66 AbsLymp-2.00 AbsMono-0.73 
AbsEos-0.02* AbsBaso-0.03
___ 08:20AM BLOOD Glucose-115* UreaN-16 Creat-0.6 Na-138 
K-4.0 Cl-100 HCO3-24 AnGap-18
___ 08:20AM BLOOD Calcium-9.4 Phos-4.4 Mg-2.4

MICRO:
==================================
Influenza PCR - declined by patient
Respiratory Virus Screen - declined by patient
__________________________________________________________
___ 10:01 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:43 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 6:14 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 4:07 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING & STUDIES
=================================
___  CXR (PA/LAT)
Asymmetric retrocardiac opacity, may represent pneumonia 
superimposed on mild progression of diffuse interstitial lung 
disease, though difficult to evaluate due to reticular 
opacities. 
__________________________________________________________

___ HIP XR RT
No acute fracture or dislocation.
__________________________________________________________

___ CT CHEST W/O CONTRAST  
  
Mild interval progression of the fibrotic interstitial lung 
disease with the radiological appearance of UIP. 
  
No superimposed airspace consolidation to suggest pneumonia. 
  
Please note that although there is no pulmonary parenchymal 
evidence of and ILD flare, but the interval increase in size of 
mediastinal lymph nodes suggests an increase in inflammatory 
response (which anecdotally may be seen in the setting of an ILD 
flare) 
  
Mild to moderate aortic valve calcifications suggest aortic 
stenosis. Mild relative hypodensity of the blood pool suggesting 
anemia. Both of these findings may result in shortness of 
breath. 
  
Suspected pulmonary hypertension. 
  
5 mm nodule in the left upper lobe (302, 58) Is indeterminate 
but new. This may represent a true pulmonary nodule or confluent 
fibrosis. ___ CT chest in ___ months advised. 
  
RECOMMENDATION(S): For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT ___ is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommend in a high-risk patient. 

 
Brief Hospital Course:
___ year old woman with IPF on pirfenidone and intermittent home 
O2, admitted for several days of fever, cough, and worsening 
hypoxemia. Pulmonology was consulted and she was treated 
empirically for possible CAP and IPF flare. Antibiotics were 
discontinued when procalcitonin returned <0.10. At discharge she 
was afebrile and clinically improving, though still with an 
increased O2 requirement from baseline. Close PCP and ___ 
___ were arranged.

TRANSITIONAL ISSUES:
=========================
- Discharged on prednisone 40 mg x 7 days for possible IPF flare
- Pirfenidone and all other medications were continued.
- Consider outpatient TTE to eval for pulmonary hypertension.
- PPI: Prescribed but not currently taking. GERD has been 
hypothesized to contribute to IPF; would encourage use if 
benefits outweigh risks.
- Diarrhea: likely iatrogenic from stool softeners and/or abx. 
Consider further workup if not improving.
- Pulmonary nodule: radiology recommends f/u CT in ___ months
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. pirfenidone 801 mg oral TID 
2. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
3. Multivitamins 1 TAB PO DAILY 
4. Pantoprazole 20 mg PO Q24H 
5. Albuterol Inhaler 2 PUFF IH Q6H 
6. Cetirizine 10 mg PO DAILY 
7. Benadryl Itch Cooling (diphenhydramine-zinc acetate) ___ % 
topical BID 
8. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth every morning Disp 
#*14 Tablet Refills:*0 
3.  Sodium Chloride Nasal ___ SPRY NU BID:PRN nasal congestion  
4.  Albuterol Inhaler 2 PUFF IH Q6H  
5.  Benadryl Itch Cooling (diphenhydramine-zinc acetate) ___ % 
topical BID  
6.  Cetirizine 10 mg PO DAILY  
7.  Loratadine 10 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Pantoprazole 20 mg PO Q24H  
10.  pirfenidone 801 mg oral TID  
11.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  
12.Home Oxygen
Dx: Idiopathic pulmonary fibrosis (516.31 / J84.112)
Length of Need: Lifelong
Concentrator and Portable
Via N/C
3L on ambulation
2L at rest

Saturation
At rest on RA: 83%
Amb on RA: 74%
Amb on O2: > 89%

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
Acute on chronic hypoxemic respiratory failure
Idiopathic pulmonary fibrosis
Possible viral pneumonitis

SECONDARY DIAGNOSES
=======================
Iatrogenic diarrhea
Gastroesophageal reflux disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY YOU WERE ADMITTED:
- You were having fevers and shortness of breath.

WHAT WE DID WHILE YOU WERE HERE:
- We did many tests to figure out the cause of your symptoms, 
including blood tests and a CT scan.
- We gave you antibiotics to treat a possible infection in your 
lungs (pneumonia).
- We also gave you a medicine (prednisone) to treat your lung 
disease (IPF).

WHAT TO DO WHEN YOU LEAVE THE HOSPITAL:

* START taking these medications:
- prednisone (steroid - 6 more days)

We did not change any of your other medications.

* Follow up with your primary care and lung doctors to make sure 
you are getting better.

* Don't hesitate to call your doctors ___ return to the hospital 
if you notice any of the "Danger Signs" listed below.

We wish you all the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___